US06777428B1
1-methylisonipecotic Acid
Isonipecotic acid (50 g, 0.387 mole) was dissolved in water (500 ml) and 37% formaldehyde (125 ml). 10% Palladium on carbon (50 g) was added and the mixture was shaken under a hydrogen atmosphere at 60 psi at room temperature for 18 hours.

reactant | Isonipecotic acid | 0.387 mole, 50 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | formaldehyde | 125 ml | C=O | CH2O
solvent | water | 500 ml | O | H2O
catalyst | Palladium on carbon | 50 g | [Pd] | Pd
product | 1-methylisonipecotic Acid | CN1CCC(C(=O)O)CC1 | C7H13NO2
